US06472228B2
Step 1: Preparation of N-methyl-1-methyl-3-phenylpropylamine-N-trifluoroacetamide:
A solution of 0.4 g of N-methyl-1-methyl-3-phenylpropylamine in 1 ml of acetonitrile was stirred. 1 ml of trifluoroacetic anhydride and 0.6 ml of pyridine was added to the solution at room temperature, and the resulting mixture was stirred overnight at room temperature. Next, the mixture was placed in ice water. The crude product was extracted with ethyl acetate, and the organic layers were combined and dried over Na2SO4. The desired product was obtained by removal of the organic solvent. TLC analysis ensured that the product was pure enough for the next synthesis step.

reactant | N-methyl-1-methyl-3-phenylpropylamine | 0.4 g | CNC(CCC1=CC=CC=C1)C | C11H17N
reactant | trifluoroacetic anhydride | 1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 0.6 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | N-methyl-1-methyl-3-phenylpropylamine N-trifluoroacetamide | CNC(CCC1=CC=CC=C1)C.C(=O)(C(F)(F)F)N | InChI=1S/C11H17N.C2H2F3NO/c1-10(12-2)8-9-11-6-4-3-5-7-11;3-2(4,5)1(6)7/h3-7,10,12H,8-9H2,1-2H3;(H2,6,7)
